### PR TITLE
Update to latest lean

### PR DESCRIPTION
**Pull request by srghma**

### CODE REVIEW

**Comment by rami3l** [comment]
@srghma Thanks a lot for this patch! I'd love to welcome all sorts of updates like this :)

Given that I haven't been involved in Lean 4 since a while ago (having lost most of my time to rustup) and I imagine a lot has changed to the language/libs since back then, I'd like to entrust you with the validity of this PR, as long as the CI passes XD

File: Plfl/More/Inference.lean [hunk 1]
```diff
@@ -309,15 +309,16 @@ lemma Lookup.empty_ext_empty
   intro n ai; is_empty; intro ⟨a, i⟩; apply ai.false; exists a
   cases i <;> trivial
 
-def Lookup.lookup (Γ : Context) (x : Sym) : Decidable' (Σ a, Γ ∋ x ⦂ a) := by
```
Comment (rami3l) [inline Plfl/More/Inference.lean:305]: I'd prefer keeping the last commit in a different PR from this one, since it seems to be working on a separate topic?

File: Plfl/Untyped/Denotational.lean [hunk 2]
```diff
@@ -420,13 +434,20 @@ def Factor (u u' v w : Value) : Prop :=
...
   | bot => cases i
-  | conjL _ _ ih ih' => exact i.elim ih ih'
-  | conjR₁ _ ih => have ⟨u'', f, s, ss⟩ := ih i; exists u'', f, .inl ∘ s
-  | conjR₂ _ ih => have ⟨u'', f, s, ss⟩ := ih i; exists u'', f, .inr ∘ s
-  | fn lt lt' => cases i; rename_i v v' w' w _ _; exists v ⇾ w, .isFn, id
+  | conjL _ _ ih ih' =>
+    rcases i with h | h
+    · exact ih h
+    · exact ih' h
+  | conjR₁ _ ih => have ⟨u'', f, s, ss⟩ := ih i; exists u'', f, fun h => Or.inl (s h)
```
Comment (rami3l) [inline Plfl/Untyped/Denotational.lean]: Since you seem to be using an LLM Agent for this, could you let it reduce the irrelevant diffs?

I can't see a reason we can't write `exists u'', f, Or.inl ∘ s` here for example. Same thing for other places in this PR :)

File: Plfl/Untyped/Denotational.lean [hunk 3]
```diff
@@ -386,22 +393,29 @@ def Value.conjCodom : Value → Value
...
+      _ ⊆ (u ⊔ u').conjDom := fun h => Or.inr h
 
 /-- Given a set `u` of identical terms `v ⇾ w`, we know that `u.conjCodom` is included in `w`. -/
 theorem conjCodom_included (s : u ⊆ v ⇾ w) : u.conjCodom ⊆ w := by induction u with
-| bot => cases s rfl
-| fn => cases s rfl; exact id
-| conj _ _ ih ih' => intro x; intro
-  | .inl i => exact ih s.fst i
-  | .inr i => exact ih' s.snd i
+| bot =>
```
Comment (rami3l) [inline Plfl/Untyped/Denotational.lean:416]: Same thing here... Isn't this just `cases s (u := ⊥) rfl`?

File: Plfl/Lambda.lean [hunk 4]
```diff
@@ -400,50 +405,81 @@ namespace Context
...
-    let ⟨ht⟩ := h
-    cases ht; rename_i hy hx
-    · cases hx; rename_i ty hx
-      · cases hx; contradiction
-
-  example : ∅‚ "y" ⦂ ℕt =⇒ ℕt ⊢ ƛ "x" : `"y" □ `"x" ⦂ ℕt =⇒ ℕt := by
+  example : ∅‚ "y" ⦂ ℕt =⇒ ℕt‚ "x" ⦂ ℕt ⊬ ‵"x" □ ‵"y" := by
+    by_contra h; unfold NoTy at h; push Not at h
+    let ⟨tt, ht⟩ := h
+    cases ht with
```
Comment (rami3l) [inline Plfl/Lambda.lean]: ... and here. Do we really need to nest this deep?

**Comment by srghma** [comment]
@rami3l  done

**Review by rami3l — COMMENTED** [review]
@srghma Sorry, I still have the impression that you are redoing certain proofs rather than just migrating the code to a later version of Lean as suggested in the PR title...

To pick a simple example here, `intro.` is replaced with `intro h; cases h` whereas the [deprecation warning](https://leanprover-community.github.io/mathlib4_docs/Batteries/Tactic/NoMatch.html#Batteries.Tactic.introDot) clearly stated that it should be replaced with `nofun`.

Can you make the diff even smaller? I have done such migrations before and thus I believe most errors/warnings would only require minimal changes.

Also, I think it'd be better to absorb the changes in the `feat: refactor based on review` commit into the previous ones.

**Comment by srghma** [comment]
well, improved, but You tell make more minimal. at places I replaced by with ordinary functions bc there is no need to use by and ordinary funcs are easier to understand

**Comment by rami3l** [comment]
> well, improved, but You tell make more minimal. at places I replaced by with ordinary functions bc there is no need to use by and ordinary funcs are easier to understand

@srghma I agree on that particular point, thanks :)

**Review by rami3l — APPROVED** [review]
LGTM, many thanks again :D

**Comment by srghma** [comment]
Thank You too

can also propose to change to class and/or rename to PDecidable https://github.com/srghma/PLFaLean/blob/learning/Plfl/Init/PDecidable.lean ( I know before You named Decidable' as PDecidable :) )

P.S. will try to implement now everything in mm0 :)

P.P.S. I live in Asia and ...hard to find job, dont know why. I want any - rust, ocaml, blockchain, full stack, etc. If You know some - can please help. If no - ignore :) just trying
